US04406902
(+)-Z-7-(3-carboxy-2-pyridylthio)-2-(2,2-dimethyl cyclopropanecarboxamido)-2-heptenoic acid
A solution of 600.0 mg (1.89 mmole) of (+) Z-7-bromo-2-(2,2-dimethylcyclopropanecarboxamido)-2-heptenoic acid, 267.0 mg (1.72 mmole) of 2-mercaptonicotinic acid and 400.6 mg (3.78 mmole) of Na2CO3 in 3.0 ml of H2O was stirred under N2 at room temperature.

reactant | (+) Z-7-bromo-2-(2,2-dimethylcyclopropanecarboxamido)-2-heptenoic acid | 1.89 mmole, 600.0 mg | BrCCCC\C=C(\C(=O)O)/NC(=O)C1C(C1)(C)C | C13H20BrNO3
reactant | 2-mercaptonicotinic acid | 1.72 mmole, 267.0 mg | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | Na2CO3 | 3.78 mmole, 400.6 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | H2O | 3.0 ml | O | H2O
product | (+)-Z-7-(3-carboxy-2-pyridylthio)-2-(2,2-dimethyl cyclopropanecarboxamido)-2-heptenoic acid | C(=O)(O)C=1C(=NC=CC1)SCCCC\C=C(\C(=O)O)/NC(=O)C1C(C1)(C)C | C19H24N2O5S
